US07262200B2
Step B: 6-[4-(5-Cyclopropyl-2H-pyrazol-3-ylamino)-6-phenyl-[1,3,5]triazin-2-ylamino]-1,2-dihydro-indazol-3-one.
To a sealed tube was added (4-Chloro-6-phenyl-[1,3,5]triazin-2-yl)-(5-cyclopropyl-2H-pyrazol-3-yl)-amine (50 mg, 0.16 mmol) and 6-amino-3-oxo-2,3-dihydro-indazole-1-carboxylic acid tert-butyl ester (80 mg, 0.32 mmol) in 1 ml of n-butanol. The contents were heated to 85° C. for 3 hours. The reaction was concentrated in vacuo to give a white solid that was dissolved in 3 ml of dichloromethane and 1 ml of trifluoro acetic acid and stirred for 5 hours at room temperature. The reaction concentrated and the crude residue purified by prep HPLC to afford 34 mg of the desired product as a light yellow solid (39.4% yield). 1H-NMR(DMSO-d6, 500 mHz) δ 10.95 (m, 1H), 10.30 (m, 1H), 9.91 (s, 1H), 8.32 (m, 2H), 8.04 (m,1H), 7.49 (m,4H), 7.25 (m, 1H), 6.14 (s br, 1H), 1.85 (s, 1H), 0.87 (s, 2H), 0.67 (s, 2H).

reactant | (4-Chloro-6-phenyl-[1,3,5]triazin-2-yl)-(5-cyclopropyl-2H-pyrazol-3-yl)-amine | 0.16 mmol, 50 mg | ClC1=NC(=NC(=N1)C1=CC=CC=C1)NC=1NN=C(C1)C1CC1 | C15H13ClN6
reactant | 6-amino-3-oxo-2,3-dihydro-indazole-1-carboxylic acid tert-butyl ester | 0.32 mmol, 80 mg | C(C)(C)(C)OC(=O)N1NC(C2=CC=C(C=C12)N)=O | C12H15N3O3
reactant | trifluoro acetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | n-butanol | 1 ml | C(CCC)O | C4H10O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 6-[4-(5-Cyclopropyl-2H-pyrazol-3-ylamino)-6-phenyl-[1,3,5]triazin-2-ylamino]-1,2-dihydro-indazol-3-one | 34 mg, 39.4% yield | C1(CC1)C=1C=C(NN1)NC1=NC(=NC(=N1)C1=CC=CC=C1)NC1=CC=C2C(NNC2=C1)=O | C22H19N9O
